US08022062B2
7-Chloro-6-[4-(2,2-dimethylpropoxy)-benzylthio]-2,3,4,5-tetrahydro-1H-benzo[d]azepine Hydrochloride
Use a method similar to the Preparation 177 to react 3-tert-butoxycarbonyl-7-chloro-6-dimethylcarbamoylthio-2,3,4,5-tetrahydro-1H-benzo[d]azepine and 1-bromomethyl-4-(2,2-dimethylpropoxy)-benzene. Use a method similar to the General Procedure 1-4 to give the title compound as a white solid. MS (ES+) m/z: 390 (M+H)+.

reactant | 3-tert-butoxycarbonyl-7-chloro-6-dimethylcarbamoylthio-2,3,4,5-tetrahydro-1H-benzo[d]azepine | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)SC(N(C)C)=O | C18H25ClN2O3S
reactant | 1-bromomethyl-4-(2,2-dimethylpropoxy)-benzene | BrCC1=CC=C(C=C1)OCC(C)(C)C | C12H17BrO
product | 7-Chloro-6-[4-(2,2-dimethylpropoxy)-benzylthio]-2,3,4,5-tetrahydro-1H-benzo[d]azepine Hydrochloride | Cl.ClC1=C(C2=C(CCNCC2)C=C1)SCC1=CC=C(C=C1)OCC(C)(C)C | InChI=1S/C22H28ClNOS.ClH/c1-22(2,3)15-25-18-7-4-16(5-8-18)14-26-21-19-11-13-24-12-10-17(19)6-9-20(21)23;/h4-9,24H,10-15H2,1-3H3;1H
